US05719157
A mixture of 2-amino-4,5,3',4'-tetramethoxybenzophenone (10.0 g), diethyl malonate (6.0 g) and 1,8-diazabicyclo[5.4.0]-7-undecene (DBU)(0.396 g) was stirred at 180° C. for 10 minutes. After cooling, ethanol was added to the reaction mixture, and the crystals were collected by filtration to give ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2(1H)-quinolone-3-carboxylate (12.0 g, 91%) which was then recrystallized from chloroform-acetone. mp. 273°-276° C.

reactant | 2-amino-4,5,3',4'-tetramethoxybenzophenone | 10.0 g | NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C(=C1)OC)OC | C17H19NO5
reactant | diethyl malonate | 6.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
catalyst | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.396 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethanol | C(C)O | C2H6O
product | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2(1H)-quinolone-3-carboxylate | 12.0 g, 91% | COC=1C=C2C(=C(C(NC2=CC1OC)=O)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C22H23NO7
